US08957252B2
In one of the embodiments of the present invention, the compound (2S)-2-bromo-3-hydroxypropanoic acid of Formula-XVIII is subjected to react with benzylamine in presence of a base and an activator under mixed anhydride coupling condition to get (2S)-N-benzyl-2-bromo-3-hydroxypropanamide of Formula-XIX. The mixed anhydride coupling reaction conditions as described by Anderson, et al., in JACS, 1967, 89, 5012-5017, the contents of which are incorporated herein by reference. The activators used to activate the carbonyl group are selected from optionally substituted alkyl or aryl chloroformates such as methyl chloroformate, ethyl chloroformate, isobutyl chloroformate, phenyl chloroformate, pivolyl chloride, 1,1-carbonyldiimidazole, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and N,N′-dicyclohexylcarbodiimide. The preferred activator used is alkyl chloroformate selected from methyl chloroformate, ethyl chloroformate and isobutyl chloroformate wherein the most preferred activator used is isobutyl chloroformate. The base used in the reaction is selected from N-methylmorpholine, pyridine, N,N-diisopropylethylamine and triethylamine wherein the preferred base used is N-methylmorpholine. The reaction is carried out in the presence of solvent at temperature in the range of −20° C. to 30° C. The solvent used for the reaction is selected from dichloromethane, ethyl acetate, toluene and tetrahydrofuran. The preferred solvent used for the reaction is ethyl acetate. Accordingly, the compound (2S)-2-bromo-3-hydroxypropanoic acid of Formula-XVIII is taken in ethyl acetate and the isobutyl chloroformate is charged at 20-30° C. Stirred and cooled the reaction mixture to −20° C. Maintaining the temperature at −20° C. charged base N-methylmorpholine and benzylamine to the reaction mass. The reaction is maintained between −20° C. to 30° C. for 4-10 hours. After completion of the reaction, concentrated the reaction mass under reduced pressure, maintaining temperature below 40° C. to get the residual mass. Charged non polar solvent to isolate the compound (2S)-N-benzyl-2-bromo-3-hydroxypropanamide of Formula-XIX. The non polar solvent used for isolation of the compound is selected from hexane, heptane and diisopropyl ether, wherein the preferred non polar solvent used is diisopropyl ether. Stirred and filtered the separated solid product, washed with water and dried to get the compound (2S)-N-benzyl-2-bromo-3-hydroxypropanamide of Formula-XIX.

reactant | (2S)-2-bromo-3-hydroxypropanoic acid | Br[C@H](C(=O)O)CO | C3H5BrO3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | (2S)-N-benzyl-2-bromo-3-hydroxypropanamide | C(C1=CC=CC=C1)NC([C@H](CO)Br)=O | C10H12BrNO2
